*SPICE model for HSCH-9161
*Because of the high leakage of this diode under reverse bias, 
*it must be modeled as an anti-parallel pair. 
*D1 represents the characteristic of the HSCH-9161 under forward bias 
*and D2 (in the forward direction) gives the V-I curve of the HSCH-9161 under reverse bias.. 
* 
*
.SUBCKT HSCH9161 1 2
DCD1    1	2	DMOD1
DCD2    2	1	DMOD2 
C1	1	2	0.011E-12
*Bond pad parasitics
.MODEL  DMOD1	D(IS=12E-6, CJO=0.03E-12, VJ=.26, BV=10, IBV=10E-12
+		EG=1.42, N=1.2, RS=50, XTI=2, M=0.5)
.MODEL  DMOD2	D(IS=84E-6, CJO=0.03E-12, VJ=.26, BV=10, IBV=10E-12
+		EG=1.42, N=40, RS=10, XTI=2, M=0.5)
.ENDS

